### PR TITLE
[Merged by Bors] - feat: adjoining identity matrices to TU matrices

### PR DESCRIPTION
**Pull request by madvorak**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by madvorak** [comment]
Perhaps this PR is not `easy` as the reviewer should informally check that given lemma is provable.

**Comment by jcommelin** [comment]
I think we should use `#proof_wanted` sparingly, and reserve it for headline results.

**Comment by madvorak** [comment]
Thank you @b-mehta very much!!!!!!!!!!!!!!
Please add yourself to the list of authors.

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 1]
```diff
@@ -62,8 +62,8 @@ lemma IsTotallyUnimodular.apply {A : Matrix m n R} (hA : A.IsTotallyUnimodular)
   convert hA 1 f g (Function.injective_of_subsingleton f) (Function.injective_of_subsingleton g)
   exact (det_fin_one (A.submatrix f g)).symm
 
-lemma IsTotallyUnimodular.submatrix {A : Matrix m n R} (hA : A.IsTotallyUnimodular) {k : ℕ}
-    (f : Fin k → m) (g : Fin k → n) :
+lemma IsTotallyUnimodular.submatrix {A : Matrix m n R} (f : m' → m) (g : n' → n)
+    (hA : A.IsTotallyUnimodular) :
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:66]: This is a similar "Fin k -> Fintype" change as was discussed elsewhere, except that in this case we don't even need it to be a fintype!

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 2]
```diff
@@ -79,36 +79,88 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
     Aᵀ.IsTotallyUnimodular ↔ A.IsTotallyUnimodular := by
   constructor <;> apply IsTotallyUnimodular.transpose
 
-lemma mapEquiv_isTotallyUnimodular {X' Y' : Type*} (A : Matrix m n R) (eX : X' ≃ m) (eY : Y' ≃ n) :
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:82]: @madvorak as a heads up, I've renamed and restated this theorem to use matrix reindexing instead; the idea is the exact same though

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 3]
```diff
@@ -79,36 +79,88 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
...
+    Set.mem_singleton_iff] at ha ⊢
+  obtain (ha | ha | ha) := ha <;>
+  obtain (hn | hn) := Nat.even_or_odd n <;>
+  simp [ha, hn]
+
+/--
+If `A` is totally unimodular and each row of B is all zeros except for at most a single 1,
+then `fromRows A B` is totally unimodular.
+-/
+lemma IsTotallyUnimodular.fromRows_one_aux [DecidableEq n] {A : Matrix m n R} {B : Matrix m' n R}
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:109]: todo: rename this

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 4]
```diff
@@ -155,8 +150,6 @@ lemma fromRows_one_isTotallyUnimodular_iff [DecidableEq n] (A : Matrix m n R) :
   fromRows_isTotallyUnimodular_iff_rows <| fun i ↦ Or.inr
     ⟨i, funext fun j ↦ by simp [one_apply, Function.update_apply, eq_comm]⟩
 
-alias ⟨_, IsTotallyUnimodular.fromRows_one⟩ := fromRows_one_isTotallyUnimodular_iff
```
Comment (b-mehta) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean]: Let's keep this alias since it gives dot notation

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 5]
```diff
@@ -79,36 +78,82 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
...
-lemma mapEquiv_isTotallyUnimodular {X' Y' : Type*} (A : Matrix m n R) (eX : X' ≃ m) (eY : Y' ≃ n) :
-    IsTotallyUnimodular ((A · ∘ eY) ∘ eX) ↔ A.IsTotallyUnimodular := by
+lemma IsTotallyUnimodular.reindex {A : Matrix m n R} (eX : m ≃ m') (eY : n ≃ n')
+    (hA : A.IsTotallyUnimodular) :
+    IsTotallyUnimodular (A.reindex eX eY) :=
+  hA.submatrix _ _
+
+lemma reindex_isTotallyUnimodular (A : Matrix m n R) (em : m ≃ m') (en : n ≃ n') :
+    IsTotallyUnimodular (A.reindex em en) ↔ A.IsTotallyUnimodular := by
   rw [isTotallyUnimodular_iff, isTotallyUnimodular_iff]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:88]: Here you should be able to golf using `Matrix.reindex_reindex` or whatever it's called.

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 6]
```diff
@@ -79,36 +78,82 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
...
-  · simpa [submatrix] using hA k (eX ∘ f) (eY ∘ g)
+  · simpa [submatrix] using hA k (em ∘ f) (en ∘ g)
+  · simpa [submatrix] using hA k (em.symm ∘ f) (en.symm ∘ g)
+
+-- TODO: move
+lemma neg_one_pow_mem_signType_range (n : ℕ) {a : R} (ha : a ∈ Set.range SignType.cast) :
+    (-1 : R) ^ n * a ∈ Set.range SignType.cast := by
+  simp only [SignType.range_eq, SignType.zero_eq_zero, SignType.coe_zero, SignType.neg_eq_neg_one,
+    SignType.coe_one, SignType.pos_eq_one, Set.mem_insert_iff, Set.mem_singleton_iff] at ha ⊢
+  obtain (ha | ha | ha) := ha <;> obtain (hn | hn) := Nat.even_or_odd n <;> simp [ha, hn]
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:98]:
```suggestion 
  replace ha : a ∈ MonoidHom.mrange (SignType.castHom (α := R)).toMonoidHom := ha
  show (-1 : R) ^ n * a ∈ MonoidHom.mrange (SignType.castHom (α := R)).toMonoidHom
  refine mul_mem (pow_mem ?_ _) ha
  exact ⟨-1, by simp⟩
```

Comment (b-mehta) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:98]: ah smart!

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean (hunk 4 above)
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean]: OK, I'll put it back.

**Comment by madvorak** [comment]
I'll add the three symmetric version of `Matrix.fromRows_one_isTotallyUnimodular_iff` on Monday.

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 7]
```diff
@@ -91,36 +89,84 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
...
+lemma reindex_isTotallyUnimodular (A : Matrix m n R) (em : m ≃ m') (en : n ≃ n') :
+    IsTotallyUnimodular (A.reindex em en) ↔ A.IsTotallyUnimodular :=
+  ⟨fun hA => by simpa [Equiv.symm_apply_eq] using hA.reindex em.symm en.symm,
+   fun hA => hA.reindex _ _⟩
+
+-- TODO: move
+lemma neg_one_pow_mem_signType_range (n : ℕ) {a : R} (ha : a ∈ Set.range SignType.cast) :
+    (-1 : R) ^ n * a ∈ Set.range SignType.cast := by
+  let S := MonoidHom.mrange (SignType.castHom (α := R)).toMonoidHom
+  exact mul_mem (s := S) (pow_mem (by use -1; rfl) n) ha
```
[the remark this answers is not in the document]
Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:106]: Having it as a lemma is nice, I guess? We just need to a find a home for it.

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:76]: Perhaps more crucially, you also don't need the two types to be the same.

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 8]
```diff
@@ -91,38 +88,103 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
...
+    (hA : A.IsTotallyUnimodular) :
+    IsTotallyUnimodular (A.reindex em en) :=
+  hA.submatrix _ _
+
+lemma reindex_isTotallyUnimodular (A : Matrix m n R) (em : m ≃ m') (en : n ≃ n') :
+    IsTotallyUnimodular (A.reindex em en) ↔ A.IsTotallyUnimodular :=
+  ⟨fun hA => by simpa [Equiv.symm_apply_eq] using hA.reindex em.symm en.symm,
+   fun hA => hA.reindex _ _⟩
+
+-- TODO: move
```
Comment (jcommelin) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:101]: todo

Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:101]: Yes, I mentioned it in the discussion thread. Ultimately, this TODO is Bhavik's call.

Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:101]: I think we should just drop this lemma and inline it

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 9]
```diff
@@ -91,38 +88,104 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
...
+lemma neg_one_pow_mem_signType_range (n : ℕ) {a : R} (ha : a ∈ Set.range SignType.cast) :
+    (-1 : R) ^ n * a ∈ Set.range SignType.cast :=
+  mul_mem (s := MonoidHom.mrange SignType.castHom.toMonoidHom) (pow_mem (by use -1; rfl) n) ha
+
+/-- If `A` is totally unimodular and each row of `B` is all zeros except for at most a single `1`,
+then `fromRows A B` is totally unimodular. -/
+lemma IsTotallyUnimodular.fromRows_one_aux [DecidableEq n] {A : Matrix m n R} {B : Matrix m' n R}
+    (hB : ∀ i : m', B i = 0 ∨ ∃ j, B i = Function.update (0 : n → R) j 1)
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:109]:
```suggestion
    (hB : ∀ i : m', B i = 0 ∨ ∃ j, B i = Pi.single j 1)
```

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean (hunk 8 above)
Comment (b-mehta) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:101]: Yes, I agree with Eric

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean [hunk 10]
```diff
@@ -91,38 +88,104 @@ lemma transpose_isTotallyUnimodular_iff (A : Matrix m n R) :
...
+      choose f' hf' using hfr
+      rw [isTotallyUnimodular_iff] at hA
+      rw [funext hf']
+      apply hA
 
-lemma fromRows_row0_isTotallyUnimodular_iff (A : Matrix m n R) {m' : Type*} :
+/-- If `A` is totally unimodular and each row of `B` is all zeros except for at most a single `1`,
+then `fromRows A B` is totally unimodular. -/
+lemma fromRows_isTotallyUnimodular_iff_rows [DecidableEq n] {A : Matrix m n R} {B : Matrix m' n R}
+    (hB : ∀ i : m', B i = 0 ∨ ∃ j, B i = Function.update (0 : n → R) j 1) :
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:149]: -1 is also okay, and this new spelling is nice!

**Comment by madvorak** [comment]
I don't know how to fix it now. I'll look at it later.

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean (hunk 10 above)
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean]: Unfortunately this doesn't work if `IsEmpty n`, as no such `j` exists.

[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean]: I think that's fine - if `n` is empty then the matrix has no entries so it's trivially TU. We should make sure to add that lemma, but the `Nonempty n` condition here seems safe enough

File: Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean (hunk 3 above)
Comment (jcommelin) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean:103]: todo: rename this

Comment (madvorak) [reply Mathlib/LinearAlgebra/Matrix/Determinant/TotallyUnimodular.lean]: Maybe now?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
